US04855309
5-(4-(3-Chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichlorophenyl)-2-(2,6-difluorophenyl)-6H-1,3,5-oxadiazine-4,6-dione
0.8 g (2.2 mmol) of 4-(3-chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichlorophenyl isocyanate and 0.4 g (2.2 mmol) of 2,6-difluorobenzoyl isocyanate were stirred for 16 hours at 70° C. with the exclusion of moisture, and, after cooling, the solid formed was stirred with 5 ml of absolute n-heptane, filtered off under suction and recrystallized from cyclohexene/toluene; melting point 154°-6° C., yield: 86%.

reactant | 4-(3-chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichlorophenyl isocyanate | 2.2 mmol, 0.8 g | ClC=1C(=NC=C(C1)OC(F)F)OC1=C(C=C(C=C1Cl)N=C=O)Cl | C13H5Cl3F2N2O3
reactant | 2,6-difluorobenzoyl isocyanate | 2.2 mmol, 0.4 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | n-heptane | 5 ml | CCCCCCC | C7H16
product | 5-(4-(3-Chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichlorophenyl)-2-(2,6-difluorophenyl)-6H-1,3,5-oxadiazine-4,6-dione | yield: 86% | ClC=1C(=NC=C(C1)OC(F)F)OC1=C(C=C(C=C1Cl)N1C(N=C(OC1=O)C1=C(C=CC=C1F)F)=O)Cl | C21H8Cl3F4N3O5
